US06635690B2
In a glass polymerization bottle were charged 80 g IOA, 18 g IBA, 2 g HEMA, 100 g ethyl acetate, and 0.5 g dibenzoyl peroxide. The bottle was purged with nitrogen, sealed, and tumbled in a water bath maintained at 60° C. for 14 hrs. The resulting terpolymer, IOA/IBA/HEMA, was isolated by precipitation in petroleum ether. The terpolymer has a number average molecular weight of 180,000 (polymer V). This high molecular weight polymer having a pendent hydroxyl moiety was mixed with the low molecular weight oligomer composition used in Example 15 in Table 4, coated onto a PET liner, and subjected to 80° C. to affect crosslinking, as in Examples 7-15. Properties of the resulting crosslinked polymer are shown in Table 5.

reactant | IBA | 18 g | C1=CC2=C(C=C1)NC=C2CCCC(=O)O | C12H13NO2
reactant | HEMA | 2 g | CC(=C)C(=O)OCCO | C6H10O3
reactant | dibenzoyl peroxide | 0.5 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | ethyl acetate | 100 g | C(C)(=O)OCC | C4H8O2
product | IBA HEMA | C1=CC2=C(C=C1)NC=C2CCCC(=O)O.CC(=C)C(=O)OCCO | InChI=1S/C12H13NO2.C6H10O3/c14-12(15)7-3-4-9-8-13-11-6-2-1-5-10(9)11;1-5(2)6(8)9-4-3-7/h1-2,5-6,8,13H,3-4,7H2,(H,14,15);7H,1,3-4H2,2H3
